US08217069B2
A mixture of 2,6-dichloro-3-nitropyridine (0.97 g), 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline (1.81 g) and N,N-diisopropylethylamine (0.87 mL) in acetonitrile (15 mL) was heated at reflux for 12 hours. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residual solids were suspended in a mixed solvent (n-hexane/ethyl acetate=2/1), and collected by filtration. The collected solids were washed with the same solvent, and dried under reduced pressure to give 6-chloro-2-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-3-nitropyridine (1.24 g). To the suspension of the obtained 6-chloro-2-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-3-nitropyridine (0.6 g) and nickel(II) bromide (13 mg) in tetrahydrofuran (4 mL)-methanol (4 mL) was added sodium borohydride (0.14 g) under ice-cooling, and the mixture was stirred under ice-cooling for 10 minutes, and then stirred at room temperature for 20 minutes. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=7/3−2/3) to give 3-amino-6-chloro-2-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]pyridine (0.48 g). The obtained 3-amino-6-chloro-2-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]pyridine (0.28 g) was dissolved in tetrahydrofuran (6 mL). To the solution was added sodium hydride (55%, 66 mg) at room temperature, and the mixture was stirred at room temperature for 10 minutes. To the reaction mixture was added triphosgene (59 mg), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was acidified by adding 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/3) to give the title compound (0.18 g).

reactant | 2,6-dichloro-3-nitropyridine | 0.97 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | 2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline | 1.81 g | ClC1=C(N)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F | C15H14ClF2NO3
reactant | N,N-diisopropylethylamine | 0.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 6-chloro-2-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenylamino]-3-nitropyridine | 1.24 g | ClC1=CC=C(C(=N1)NC1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)[N+](=O)[O-] | C20H15Cl2F2N3O5
